US08193359B2
N-Hydroxyfuro[3,2-c]pyridine-2-carboxamidine
A solution of NH2OH.HCl (1.22 g, 17.5 mmol) and K2CO3 (1.21 g, 8.75 mmol) in H2O (3 mL) was added to a stirred solution of furo[3,2-c]pyridine-2-carbonitrile (1.26 g, 8.75 mmol) in EtOH (6 mL). The reaction was heated to 70° C. for 2 h, before being concentrated in vacuo. The remainder was partitioned between EtOAc and H2O. The aqueous phase was extracted with EtOAc (8×), then the combined organic extracts were washed with brine, back-extracting with EtOAc (4×). The combined organic extracts were dried (MgSO4), filtered, and concentrated to give the title compound: m/z (ES+)=178.0 [M+H]+.

reactant | NH2OH.HCl | 17.5 mmol, 1.22 g | NO.Cl
reactant | K2CO3 | 8.75 mmol, 1.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | furo[3,2-c]pyridine-2-carbonitrile | 8.75 mmol, 1.26 g | O1C(=CC=2C=NC=CC21)C#N | C8H4N2O
solvent | H2O | 3 mL | O | H2O
solvent | EtOH | 6 mL | CCO | C2H6O
product | N-Hydroxyfuro[3,2-c]pyridine-2-carboxamidine | ONC(=N)C1=CC=2C=NC=CC2O1 | C8H7N3O2
